US04818273
Preparation of N-(2,6-dichloro-3-methylphenyl)-5-amino-1,2,4-triazole-3-sulfonamide
Potassium hydroxide (72.9 g of 85 percent pellets, 1.20 mol) was dissolved in one liter of water in a 2 liter round bottom flask and 113.3 g (0.30 mol) of wet N-(2,6-dichloro-3-methylphenyl)-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide was added with stirring. The mixture obtained was cooled to 17° C. and 100 ml of 30 percent hydrogen peroxide solution (about 1 mole) was added with stirring over a 0.5 hour period so that the temperature did not exceed 40° C. The reaction was found to be complete after three hours by high pressure liquid chromatography. An aqueous solution of sodium bisulfite was added to quench the excess hydrogen peroxide and the solution obtained was filtered through celite and then acidified with concentrated hydrochloric acid. The precipitate that formed was collected by filtration, washed with water, and partially dried. This material, which is the N1 -acetyl derivative of the desired product, was dissolved in 800 ml of tetrahydrofuran and the resulting solution was combined with 100 ml of water and 100 ml of concentrated hydrochloric acid. This mixture was heated at reflux with stirring in a two liter bottom flask overnight. The solvent was removed by evaporation under reduced pressure and the resulting aqueous suspension was filtered to collect the solid product. This was washed with water and dried to obtain 59.3 g (61 percent of theory) of the title compound as a white solid. This compound has an m.p. of 206°-8° C.

reactant | Potassium hydroxide | 1.20 mol, 72.9 g | [OH-].[K+]
reactant | N-(2,6-dichloro-3-methylphenyl)-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 0.30 mol, 113.3 g | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C14H13Cl2N5O2S
reactant | hydrogen peroxide | about 1 mole, 100 ml | OO | H2O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | water | one liter | O | H2O
product | N-(2,6-dichloro-3-methylphenyl)-5-amino-1,2,4-triazole-3-sulfonamide | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NNC(=N1)N | C9H9Cl2N5O2S
